US07829580B2
(c) (E)-3-({1-[4-(Ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol
(E)-3-({1-[4-(Ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one (18.87 g) was allowed to react with sodium borohydride (1.32 g) in a similar manner to that described in Example 132 (d). The crude product obtained by extraction was purified by chromatography on silica gel using a mixture of ethyl acetate and hexane (4:6 to 6:4), followed by a mixture of methanol and dichloromethane (5:9 to 10:90) as eluents to afford the title compound as a pale brown amorphous solid (18.59 g).

reactant | (E)-3-({1-[4-(Ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one | 18.87 g | C(C)OC(=O)CCCCN1N=NC(=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N4O3
reactant | sodium borohydride | 1.32 g | [BH4-].[Na+]
product | (E)-3-({1-[4-(Ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | 18.59 g | C(C)OC(=O)CCCCN1N=NC(=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38N4O3
